US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (74 mg, 0.15 mmol) was dissolved in 5 mL of MeOH. Pd(OH)2 (30 mg) was added, and the contents were stirred under a hydrogen balloon for approximately 90 min. The contents were then filtered to remove the catalyst, and the filtrate was concentrated in vacuo. The resulting crude product was purified via reverse phase HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide (32 mg, 51%). LCMS: (M+H)+: 417.0.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 0.15 mmol, 74 mg | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)NC(C)C | C24H32ClFN6O3
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd(OH)2 | 30 mg | [OH-].[OH-].[Pd+2]
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(1-methylethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 32 mg, 51% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)NC(C)C | C17H26ClFN6O3
